US04468402
1.0 Gram of 6-(1-piperazinylcarbonyl)carbostyril monohydrochloride, 0.72 g of m-chlorobenzoylchloride and 1.4 ml of triethylamine were suspended in 15 ml of dichloromethane and the suspension was stirred at a room temperature for 2 hours. Crystals formed in the reaction mixture were collected by filtration and recrystallized from dimethylformamide to obtain 1.07 g of 6-[4-(3-chlorobenzoyl)-1-piperazinylcarbonyl]-carbostyril. Colorless powdery crystals. Melting point: over 300° C.

reactant | 6-(1-piperazinylcarbonyl)carbostyril monohydrochloride | Cl.N1(CCNCC1)C(=O)C=1C=C2C=CC(NC2=CC1)=O
reactant | m-chlorobenzoylchloride | 0.72 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 6-[4-(3-chlorobenzoyl)-1-piperazinylcarbonyl]-carbostyril | 1.07 g | ClC=1C=C(C(=O)N2CCN(CC2)C(=O)C=2C=C3C=CC(NC3=CC2)=O)C=CC1 | C21H18ClN3O3
